US03992535
3.15 ml of 1 N sodium hydroxide (3.15 millimols) were added dropwise to a suspension of 1.12 gm (3 millimols) of 4-hydroxy-N-(2-thiazolyl) 2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide in 50 ml of methanol and 1.7 gm (12 millimols) of methyl iodide, whereby a reddish solution was formed. The solution was stirred at room temperature for 72 hours and was then evaporated to dryness in vacuo. The residue was triturated with water, filterd off and recrystallized from ethylene chloride, yielding 0.47 gm (40.5% of theory) of 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 249°-250° C (decomp).

reactant | sodium hydroxide | 3.15 millimols, 1 N, 3.15 ml | [OH-].[Na+]
reactant | 4-hydroxy-N-(2-thiazolyl) 2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 3 millimols, 1.12 gm | OC1=C(NS(C2=C1C=CC1=CC=CC=C12)(=O)=O)C(=O)NC=1SC=CN1 | C16H11N3O4S2
reactant | methyl iodide | 12 millimols, 1.7 gm | CI | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 0.47 gm, 40.5% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=CN1 | C17H13N3O4S2
